US06503907B2
A solution of 1.05 g (3.2 mmol) 5-Bromo-1-(4-chloro-phenyl)-6-fluoro-1H-indole in THF at −78° C. was treated dropwise with 3 ml (4.8 mmol) 1.6 M BuLi in hexane, stirred during around 30 min, treated with 1.5 ml (6.5 mmol) triisopropylborate, stirred for 10 min at −78° C. and then for 30 min at 0° C. A mixture of 0.8 ml H2O and 0.8 ml AcOH was added dropwise, the resulting mixture treated within 15 min with 0.5 ml of H2O2 (35% in H2O ), stirred for 30 min at 0° C., and 1 h at room temperature. The mixture was diluted with 50 ml of Et2O, 40 ml of saturated aqueous NaCl, and 10 ml of 1M aqueous Na2S2O3 and stirred during 2 hours at room temperature. The organic layer was dried with MgSO4 and the solvent evaporated. Column chromatography on silica gel with (Et2O/hexane 1:2) gave 594 mg (70%) 1-(4-Chloro-phenyl)-6-fluoro-1H-indol-5-ol as a light brown solid. The solid was dissolved in 1.5 ml DMF and treated with grinded 740 mg K2CO3 and 900 mg 1,4-dibromobutane and stirred during 2 hours at 80° C. The mixture was poured into saturated aqueous NaCl and extracted three times with Et2O. Drying of the combined organic layers with Na2SO4, evaporation of the solvent, and column chromatography on silica gel with hexane/Et2O 3:1 gave 180 mg (14%) 5-(4-Bromo-butoxy)-1-(4-chloro-phenyl)-6-fluoro-1H-indole as a light brown solid, MS: 395 (M, 1Cl, 1Br).

reactant | 5-Bromo-1-(4-chloro-phenyl)-6-fluoro-1H-indole | 3.2 mmol, 1.05 g | BrC=1C=C2C=CN(C2=CC1F)C1=CC=C(C=C1)Cl | C14H8BrClFN
reactant | BuLi | 4.8 mmol, 1.6 M, 3 ml | [Li]CCCC
reactant | triisopropylborate | 6.5 mmol, 1.5 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | H2O2 | 0.5 ml | OO | H2O2
solvent | THF | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | Et2O | 50 ml | CCOCC | C4H10O
solvent | NaCl | 40 ml | [Na+].[Cl-]
solvent | Na2S2O3 | 1M, 10 ml | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | AcOH | 0.8 ml | CC(=O)O | C2H4O2
solvent | H2O | 0.8 ml | O | H2O
product | 1-(4-Chloro-phenyl)-6-fluoro-1H-indol-5-ol | 594 mg, 70% | ClC1=CC=C(C=C1)N1C=CC2=CC(=C(C=C12)F)O | C14H9ClFNO
